US05691384
4-(4-Bromobutoxy)benzophenone
Combine 4-hydroxybenzophenone (14.11 g, 71.2 mmol) and aqueous 1M sodium hydroxide solution (70 mL). Add 1,4-dibromobutane (43.4 g, 200 mmol). Heat the reaction mixture to reflux. After 20.5 hours, cool to ambient temperature. Add pentane (100 mL) and again heat to reflux. After 0.5 hours, cool to ambient temperature to give a solid. Collect the solid by filtration. recrystallize the solid from ethanol to give the title compound: mp; 42°-43° C.

reactant | 4-hydroxybenzophenone | 71.2 mmol, 14.11 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium hydroxide | 1M, 70 mL | [OH-].[Na+]
reactant | 1,4-dibromobutane | 200 mmol, 43.4 g | BrCCCCBr | C4H8Br2
solvent | pentane | 100 mL | CCCCC | C5H12
product | 4-(4-Bromobutoxy)benzophenone | BrCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H17BrO2
